US08877760B2
A mixture of tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate (100 mg, 0.284 mmol), 3-(pyrimidin-2-yl)aniline (100 mg, 0.584 mmol), K2CO3 (118 mg, 0.855 mmol), BINAP (30 mg, 0.048 mmol) and Pd(OAc)2 (15 mg, 0.066 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. Water and EtOAc were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo to give a crude tert-butyl (1S,2R)-2-(5-cyano-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)cyclohexylcarbamate.

reactant | tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate | 0.284 mmol, 100 mg | ClC1=C(N=CC(=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C#N | C16H22ClN5O2
reactant | 3-(pyrimidin-2-yl)aniline | 0.584 mmol, 100 mg | N1=C(N=CC=C1)C=1C=C(N)C=CC1 | C10H9N3
reactant | K2CO3 | 0.855 mmol, 118 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.048 mmol, 30 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl (1S,2R)-2-(5-cyano-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)cyclohexylcarbamate | C(#N)C=1N=CC(=NC1NC1=CC(=CC=C1)C1=NC=CC=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C26H30N8O2
